US06610688B2
Synthesis of 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(3-morpholin-4-yl-3-oxo-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 30)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (86 mg, 0.31 mmol), 3,5-dimethyl-4-(3-morpholin-4-yl-3-oxo-propyl)-1H-pyrrole-2-carbaldehyde (83 mg, 0.31 mmol) and piperidine (1 drop) in ethanol (2 mL) was stirred at room temperature for 3 days. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give the title compound. MS 525 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.31 mmol, 86 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 3,5-dimethyl-4-(3-morpholin-4-yl-3-oxo-propyl)-1H-pyrrole-2-carbaldehyde | 0.31 mmol, 83 mg | CC1=C(NC(=C1CCC(=O)N1CCOCC1)C)C=O | C14H20N2O3
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(3-morpholin-4-yl-3-oxo-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=C(C2C)CCC(=O)N2CCOCC2)C)=O | C26H26ClFN6O3
